US07196199B2
(3) (2S)-α-(2′-(2-hydroxy-3-(4-(naphthalen-2-yl)piperidino)propyloxy)benzyl)-γ-butyrolactone
(2S)-α-(2′-(2,3-Epoxypropan-1-yloxy)benzyl)-γ-butyrolactone (1.5 g) and 4-(naphthalen-2-yl)piperidine (1.5 g) were dissolved in methanol (50 ml) and the reaction mixture was refluxed under heating for 2 hr. After cooling, the solvent was evaporated under reduced pressure and the obtained oil was purified by silica gel column chromatography (chloroform/methanol) to give the title compound (1.3 g).

reactant | (2S)-α-(2′-(2,3-Epoxypropan-1-yloxy)benzyl)-γ-butyrolactone | 1.5 g | O1C(COC2=C(C[C@@H]3C(=O)OCC3)C=CC=C2)C1 | C14H16O4
reactant | 4-(naphthalen-2-yl)piperidine | 1.5 g | C1=C(C=CC2=CC=CC=C12)C1CCNCC1 | C15H17N
solvent | methanol | 50 ml | CO | CH4O
product | (2S)-α-(2′-(2-hydroxy-3-(4-(naphthalen-2-yl)piperidino)propyloxy)benzyl)-γ-butyrolactone | 1.3 g | OC(COC1=C(C[C@@H]2C(=O)OCC2)C=CC=C1)CN1CCC(CC1)C1=CC2=CC=CC=C2C=C1 | C29H33NO4
